US04638005
1.2 g of 2-(2-sulfonyl-3,4-dihydroxybutyl) pyrazine sodium salt (4106 and 4107) was added to a solution of 10 ml of methyl iodide in 25 ml of methanol. 2 ml of water were added and the mixture was refluxed for 5 days. It was then concentrated, taken up in 100 ml of water and washed with methylene chloride. The aqueous layer was concentrated and the residue chromatographed (Biogel P-2/water) giving 1.1 g of 1-methyl-3-(2-sulfonyl-3,4-dihydroxybutyl)pyrazine (4100) as a mixture of diastereoisomers. UV H2O max: 283 (3.88). These were separated using a Biorad AG-50 W×4 (Ca++) column at 65° with water as the eluent. 13C NMR: 163.89, S (C3); 150.36, D (C5); 138.88, D, 135.81, D (C2, C6); 71.05, D (CHOH); 64.41, T (CH2OH); 61.64, D (CHSO3-); 49.65, Q (NCH3); 32.61, T (--CH2 --). 13C NMR of the epimer; 163.49, S (C3); 150.44, D (C5); 138.77, D, 135.92, D (C2, C6); 71.82, D (CHOH); 63.37, T (CH2OH); 63.25, D (CHSO3-); 49.65, Q (NCH3); 33.26, T (-CH2 -).

reactant | 2-(2-sulfonyl-3,4-dihydroxybutyl) pyrazine sodium salt | 1.2 g | [Na].S(=O)(=O)=C(CC1=NC=CN=C1)C(CO)O
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | water | 2 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 1-methyl-3-(2-sulfonyl-3,4-dihydroxybutyl)pyrazine | 1.1 g | CN1CC(=NC=C1)CC(C(CO)O)=S(=O)=O | C9H14N2O4S
